US04610987
A solution consisting of 120 ml of trifluoroacetic acid and 200 ml of tetrahydrofuran was added to a solution of 60 g of sodium borohydride in 300 ml of tetrahydrofuran under ice-cooling to a temperature of 15° C. or less. 63.4 of 5-dimethylamino-2-nitrobenzonitrile was added to the mixture, followed by stirring. After cooling the heat generated, the stirring was continued at room temperature overnight. 650 ml of a 10% aqueous solution of hydrochloric acid was then added thereto, followed by heat-refluxing for 1.5 hours. The tetrahydrofuran was removed by distillation under reduced pressure. The aqueous layer was washed with benzene, rendered alkaline with a sodium hydroxide aqueous solution, and extracted with chloroform. The extract was washed with water, dried and distilled off to remove the chloroform. The residue was purified by silica gel chromatography to obtain 33.4 g of 5-dimethylamino-2-nitrobenzylamine (melting point: 97°-98° C.).

reactant | trifluoroacetic acid | 120 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium borohydride | 60 g | [BH4-].[Na+]
reactant | 5-dimethylamino-2-nitrobenzonitrile | CN(C=1C=CC(=C(C#N)C1)[N+](=O)[O-])C | C9H9N3O2
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 5-dimethylamino-2-nitrobenzylamine | 33.4 g | CN(C=1C=CC(=C(CN)C1)[N+](=O)[O-])C | C9H13N3O2
